US07652008B2
(7R*,8S*)-7-hydroxy-6,6-dimethyl-8-[(2-phenylethyl)amino]-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-3-one
To a solution of 2-chloro-N-[(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl]-acetamide (120 mg, 0.30 mmol) in methanol (1.2 mL), aqueous sodium hydroxide solution (1 mol/L, 1.5 mL) was added at room temperature, and the resulting mixture was stirred for 4 hours. Upon the completion of the reaction, saturated aqueous ammonium chloride solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated aqueous sodium hydroxide solution (1 mol/L) and then with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=1/1) and the aimed product was obtained (yield: 72%).

reactant | 2-chloro-N-[(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl]-acetamide | 0.30 mmol, 120 mg | ClCC(=O)NC1=CC2=C([C@@H]([C@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C=C1O | C21H25ClN2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1.2 mL | CO | CH4O
solvent | sodium hydroxide | 1 mol/L, 1.5 mL | [OH-].[Na+]
product | (7R*,8S*)-7-hydroxy-6,6-dimethyl-8-[(2-phenylethyl)amino]-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-3-one | yield: 72% | O[C@H]1C(OC=2C=C3NC(COC3=CC2[C@@H]1NCCC1=CC=CC=C1)=O)(C)C | C21H24N2O4
